US07285557B2
tert-butyl (1S)-2-[4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy]-1-methylethylcarbamate
To a solution of 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin4(3H)-one (0.29 g, 0.75 mmol, the preparation of which can be found in the section detailing the preparation of Example K1) in DMF was added (2S)-2-[(tert-butoxycarbonyl)amino]propyl toluenesulfonate (0.5 g, 1.50 mmol) and cesium carbonate (0.72 g, 2.25 mmol) and the mixture was stirred with heating at 75° C. for 12 h. The reaction was allowed to cool and 25 mL of a solution of 20% water/ethanol was added. The resulting precipitate was filtered and dried in a vacuum oven to give the product (200 mg, 49%). 1H NMR (DMSO-D6) δ 1.15 (3H, d, J=6.1 Hz), 1.40 (9H, s), 3.79 (6H, m), 7.22-7.20 (3H, m), 7.59 (2H, d, J=8.4 Hz), 7.95-7.99 (3H, m) 8.40 (1H, s). LCMS m/z=542 (m+H+).

reactant | 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)O)OC | C19H13ClN2O3S
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]propyl toluenesulfonate | 1.50 mmol, 0.5 g | C=1(C(=CC=CC1)S(=O)(=O)OC[C@H](C)NC(=O)OC(C)(C)C)C | C15H23NO5S
reactant | cesium carbonate | 2.25 mmol, 0.72 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water ethanol | O.C(C)O
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl (1S)-2-[4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy]-1-methylethylcarbamate | 200 mg, 49% | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)OC | C27H28ClN3O5S
